Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Demerol / Valium / Versed / Percocet
 
Attending: ___.
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
None
Femoral line was inserted at another hospital

 
History of Present Illness:
___ yo F w/ PMH of SVT, PE, chest pain w/ multiple recent 
negative workups p/w palpitations and chest pain. Was feeling 
well recently until she woke up from sleep and noted that her 
heart was racing. She went to the gym (___, 
___ and started having sharp chest pain radiating to her L 
shoulder while running on the treadmill and then after getting 
off of the treadmill she reportedly syncopized and was down for 
3 minutes. The chest pain in sharp, worse w/ deep breath, worse 
w/ laying flat and radiates to her L shoulder. She stated that 
she had no clonic movements, no loss of bowel or bladder control 
and no tongue biting. She then called her doctor because her 
heart was still racing up to 160 and he told her that she could 
take some extra metoprolol. Her HR and palpitations decreased 
after taking the extra metoprolol and her chest pain subsided 
mostly, but not completely and she presented to ___ 
where she recieved a fem line and a rhythm strip showed brief 
run of sinus to 160. She requested transfer to ___ and was 
diverted briefly to ___ after complaining of chest pain in 
the ambulance. 
 
Past Medical History:
1. h/o SVT/?___ s/p ___ 
___ , ___ and ___. Per records s/p cath ___ showing  
mild plaque in one artery.  
2. Glucose intolerance, no dx of DM  
3. Broken wrist on the left, status post surgery.  
4. History of goiter. Had US done and technetium scan in 91  
showing inactive thyroid nodules. TSH 1.5 ___. h/o saddle PE treated at ___ in ___. full 
hypercoag panel negative  
6. PUD, GERD  
7. Obesity--wt 226 for last several months  
8. Depression  
9. Anxiety--Used hypnotism is the past which helped  
10. Bulemia  
11. DVT ___ in relation to left leg tendon injury  
12. ? ___'s behavior per ___ hospitalist note ___  

 
Social History:
___
Family History:
Father: first MI in mid ___, h/o vtach, afib, T2DM  
Son: AV nodal reentry  
Aunt: ___ CA at age ___  
 
Physical Exam:
Vitals - T: 98.3 BP: 110/60 HR: 96 RR: 16 02 sat: 98% RA  
GENERAL: A/OX3, comfortable appearing  
HEENT: No JVD  
CARDIAC: RRR, No MRG  
LUNG: CTAB, no tenderness to palpation in chest  
ABDOMEN: Soft, mildly tender in epigastrium, ND, BS+  
EXT: No swelling in ___, mildly tender RLE. No edema, 2+ DP 
pulses  

 
Pertinent Results:
___ 09:10PM BLOOD WBC-10.5 RBC-3.85* Hgb-12.5 Hct-34.8* 
MCV-90 MCH-32.4* MCHC-35.9* RDW-12.9 Plt ___
___ 09:10PM BLOOD Neuts-94.5* Lymphs-4.4* Monos-0.5* 
Eos-0.4 Baso-0.1
___ 09:10PM BLOOD Glucose-137* UreaN-8 Creat-1.0 Na-137 
K-3.6 Cl-106 HCO3-21* AnGap-14
___ 09:10PM BLOOD CK(CPK)-221*
___ 09:10PM BLOOD cTropnT-<0.01
___ 09:10PM BLOOD D-Dimer-2525*
___ 09:30PM BLOOD Lactate-1.___ yo F w/ likely factitious disorder and Hx of PE p/w pleuritic 
chest pain and elevated d-dimer.  
.  
#Chest pain: Very likely somatic, but pt. has Hx of PE 
documented although this was provoked by EP study. HD stable, 
not hypoxic, briefly tachycardic. D-dimer was elevated but 
entirely unhelpful as + result does not nessesarily make PE more 
likely, possibly was elevated ___ multiple attempts at 
peripheral access. Very unlikely ACS, first set of Trp negative 
after having ~2days of chest pain, did not continue ___ w/ 
CE's. Unable to get CTA chest as she had no PIV access.  Pt. 
very well known to attending, and has had multiple negative 
workups and complications from those workups for the same 
presentation of chest pain. She stated that this is the same 
pain that she always has, and that she chronically takes 
ibuprofen for it which occasionally causes her to have stomach 
bleeding. She aknowledged that her anxiety and stress are 
correlated with the pain and on d/c she stated that she would 
perform stress reduction techniques such as playing the piano 
and listening to her meditation CD to try to decrease her level 
of anxiety. She reported to us that she had lost consciousness 
for 3 minutes at the gym and was found by a paramedic, then went 
home and called Dr. ___. Dr. ___ from yesterday 
regarding this episode mentions her feeling palpitations and 
lightheadedness but no syncope. She was walking without 
difficulty throughout admission. She had periods of tachycardia 
c/w her known SVT, but was not consistently tachycardic. 
Excluding tachycardia which was transient, her WELLS score would 
have been 1.5, which would be unlikely for PE. No further workup 
was indicated as pt. has been extensively worked up for the same 
complaint repeatedly without positive results and pt. was d/c'd 
in stable condition but still complaining of chest pain and 
advised to use ibuprofen and tylenol as needed for pain. She did 
ask for vicodin for her pain at time of d/c, but that she would 
settle for some ativan for her anxiety. Given that her pain has 
a strong somatic component, it was determined that providing her 
with narcotics and benzos would not treat the real source of her 
pain and would lead to a cycle of prescribing. She was advised 
to follow up with her PCP for treatment of her somatic 
complaints as she was not interested in referal to counseling or 
psychiatry at time of d/c. Given that her previous PE was 
provoked, she is not at increased risk to have another. She did 
have a chronic appearing popliteal DVT in ___ of this year 
after having a tendon rupture. This would also be a provoked 
clot and this was gone by the time she had a repeat in ___ of 
this year.  
.  
#H/o SVT: She had several short bursts of SVT <1min after 
skipping a dose of her metoprolol. She has never been evaluated 
by an EP studay at ___, though she has been seen by Dr. 
___. She continually fails to bring her ablation records from 
OSH. She may benefit from switching to QD metoprolol or adding 
diltiazem, but this was deferred to outpt. setting. 
.  
#Positive review of systems: Pt. had multiple complaints which 
were not consistent with any clinical syndrome and her exam/VS 
were not consistent with her complaints so no further workup was 
pursued given her presentation and multiple previous negative 
workups.   

.  
# CODE: Full  

 
Medications on Admission:
1. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Metoprolol Tartrate 25 mg Tablet Sig: Three (3) Tablet PO TID 
(3 times a day).  

 
Discharge Medications:
1. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Metoprolol Tartrate 25 mg Tablet Sig: Three (3) Tablet PO TID 
(3 times a day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Chest wall pain

Secondary
Hypothyroid
Anxiety

 
Discharge Condition:
Stable, still having some chest pain

 
Discharge Instructions:
You came to the emergency room because of chest pain and rapid 
heart rate. It is very unlikely that you have a blood clot in 
your lungs. The tests that we have for blood clots in the lungs 
can have significant complications and so we did not do any 
tests further than a blood test. You had several episodes of 
rapid heart rate, but this may have been related to not taking 
your metoprolol. 

Please take your medications exactly as prescribed

We did not change any of your medications

If you have any new or worsening chest pain, shortness of 
breath, bleeding, confusion, fevers, chills or nightsweats 
please call your doctor immediately or go to the emergency 
department. 
 
Followup Instructions:
___